US08377949B2
To a mixture of (S)-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-phenyl-acetic acid methyl ester (110 mg, 0.35 mmol) and (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethylammonium iodide (180 mg, 0.52 mmol) in DMF (2.5 mL) is added K2CO3 (150 mg, 1.09 mmol). The mixture is stirred at 60° C. for 4 hours. The reaction mixture is allowed to cool to room temperature, dilutes with EtOAc (50 mL) and is washed with H2O (50 mL×3). The organic layer is dried over sodium sulfate and is concentrated. The resulting residue is purified by flash chromatography with 50% EtOAc in hexanes as the eluent to afford (S)-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-phenyl-acetic acid methyl ester (100 mg, 60%).

reactant | (S)-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-phenyl-acetic acid methyl ester | 0.35 mmol, 110 mg | COC([C@H](C1=CC=CC=C1)N1C(NC2=CC=CC=C2C1=O)=O)=O | C17H14N2O4
reactant | (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethylammonium iodide | 0.52 mmol, 180 mg | [I-].CN1C=C(C2=C(C=CC=C12)C)C[N+](C)(C)C
reactant | K2CO3 | 1.09 mmol, 150 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | (S)-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-phenyl-acetic acid methyl ester | 100 mg, 60% | COC([C@H](C1=CC=CC=C1)N1C(N(C2=CC=CC=C2C1=O)CC1=CN(C2=CC=CC(=C12)C)C)=O)=O | C28H25N3O4
